US09284323B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(6-chloro-4-fluoro-1-hydroxy-3-methylnaphthalen-2-yl)acetate:
To a solution of (S)-ethyl 2-tert-butoxy-2-(6-chloro-1-hydroxy-3-methylnaphthalen-2-yl)acetate (0.9705 g, 2.77 mmol) in anhydrous acetonitrile (20 mL) at 0° C. was added SelectFluor (1.078 g, 3.04 mmol) in one portion. The reaction mixture was stirred for 4 hours at 0° C., then 1 hour at room temperature. The reaction mixture was quenched with saturated Na2HPO4 solution and stirred for 20 minutes. The mixture was extracted with ethyl acetate (2×), dried (MgSO4), filtered, concentrated and stored overnight in a freezer. The residue was purified by flash column chromatography (silica gel, 0 to 15% ethyl acetate/hexanes) to give the desired product. LCMS-ESI+ (m/z): [M+H]+ calcd for C19H21ClFO4: 367.8. Found: 366.9, 368.9.

reactant | (S)-ethyl 2-tert-butoxy-2-(6-chloro-1-hydroxy-3-methylnaphthalen-2-yl)acetate | 2.77 mmol, 0.9705 g | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)Cl)O | C19H23ClO4
reactant | SelectFluor | 3.04 mmol, 1.078 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (S)-ethyl 2-tert-butoxy-2-(6-chloro-4-fluoro-1-hydroxy-3-methylnaphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C(=C1C)F)Cl)O | C19H22ClFO4
